US05804588
5-Bromo-7-fluoro-8-methoxyquinoline
Bromine (0.48 ml) was added dropwise to a solution of 7-fluoro-8-methoxyquinoline (1.6 g) in glacial acetic acid (24 ml). The mixture was heated to 40° C. for 4 h and the reaction quenched with 5% aqueous sodium metabisulphite (100 ml). The solution was basified with 25% aqueous sodium hydroxide to pH13 and the product extracted with ethyl acetate (3×150 ml). The extracts were combined, dried over magnesium sulphate, filtered and the filtrate evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with 25% ethyl acetate in hexane to yield the desired product as a white solid (0.50 g).

reactant | Bromine | 0.48 ml | BrBr | Br2
reactant | 7-fluoro-8-methoxyquinoline | 1.6 g | FC1=CC=C2C=CC=NC2=C1OC | C10H8FNO
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-7-fluoro-8-methoxyquinoline | 0.50 g | BrC1=C2C=CC=NC2=C(C(=C1)F)OC | C10H7BrFNO
